US09340508B2
20 ml of DCM were added with 4-chloro-7-hydroxy-6-methoxyquinoline (300 mg, 1.43 mmol; from China Gateway), 1-benzyloxycarbonylamino-1-hydroxymethylcyclopropane (412 mg, 1.87 mmol, 1.3 eq; from China Gateway) and triphenylphosphine (490 mg, 1.87 mmol, 1.3 eq). The resulting solution was dropwise added with a solution of DEAD (378 mg, 1.87 mmol, 1.3 eq) in 3 ml of DCM, keeping the temperature at 0° C. for 2 hours. The mixture was then left at 10° C. for 20 hours, then filtered to recover the unreacted 4-chloro-7-hydroxy-6-methoxyquinoline. The filtrate was evaporated under vacuum and the resulting residue was added with 20 ml of 95% EtOH and left under stirring for 30 min. The solid was collected by filtration, washed with 5 ml of 95% EtOH and dried under vacuum to give 1-[(4-chloro-6-methoxyquinolin-7-yloxy)methyl]-N-benzyloxycarbonyl-1-aminocyclopropane (273 mg; yield: 46%).

reactant | 4-chloro-7-hydroxy-6-methoxyquinoline | 1.43 mmol, 300 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)O | C10H8ClNO2
reactant | 1-benzyloxycarbonylamino-1-hydroxymethylcyclopropane | 1.87 mmol, 412 mg, 1.3 eq | C(C1=CC=CC=C1)OC(=O)NC1(CC1)CO | C12H15NO3
reactant | triphenylphosphine | 1.87 mmol, 490 mg, 1.3 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 1.87 mmol, 378 mg, 1.3 eq | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-[(4-chloro-6-methoxyquinolin-7-yloxy)methyl]-N-benzyloxycarbonyl-1-aminocyclopropane | 273 mg, yield: 46% | ClC1=CC=NC2=CC(=C(C=C12)OC)OCC1(CC1)NC(=O)OCC1=CC=CC=C1 | C22H21ClN2O4
